US08455479B2
To a solution of (7,8-difluoro-2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid phenyl ester) (2.64 g, 6.15 mmol) in MeOH (30 mL), was added 10% Pd/C (200 mg, 20% w/w) under argon; The reaction was stirred at r.t. for 5 h under hydrogen atmosphere. After completion of the reaction as confirmed by TLC, the reaction mixture was filtered through celite bed and washings were given with EtOAc and MeOH. The solvents were removed in vacuo to afford the crude compound which was purified by column chromatography (silica gel: 1:9 MeOH:CHCl3) to afford pure 7,8-difluoro-1,3,4,5-tetrahydro-benzo[e][1,4]diazepin-2-one as off white solid (0.98 g, 80%).

reactant | 7,8-difluoro-2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid phenyl ester | C1(=CC=CC=C1)OC(=O)N1CC(NC2=C(C1)C=C(C(=C2)F)F)=O | C16H12F2N2O3
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 7,8-difluoro-1,3,4,5-tetrahydro-benzo[e][1,4]diazepin-2-one | FC1=CC2=C(NC(CNC2)=O)C=C1F | C9H8F2N2O
